US04666935
16.7 g (0.1 mol) of dichloromaleic anhydride and 17.0 g (0.1 mol) of 3-(4-chlorophenyl)-propylamine are stirred in 100 ml of glacial acetic acid under reflux for 4 hours. 50 ml of water are added and the mixture is cooled to 20° C. The product is filtered off with suction and dried. 26.1 g (82% of theory) of dichloromaleic acid N-[3-(4-chlorophenyl)-propyl]-imide of melting point 72°-73° C. are obtained.

reactant | dichloromaleic anhydride | 0.1 mol, 16.7 g | Cl/C/1=C(/C(=O)OC1=O)\Cl | C4Cl2O3
reactant | 3-(4-chlorophenyl)-propylamine | 0.1 mol, 17.0 g | ClC1=CC=C(C=C1)CCCN | C9H12ClN
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | dichloromaleic acid N-[3-(4-chlorophenyl)-propyl]-imide | 26.1 g, 82% | ClC1=CC=C(C=C1)CCCN=C(\C(=C(/C(=O)O)\Cl)\Cl)O | C13H12Cl3NO3
